2173-09-16 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2173-9-15**] 11:30 PM Right femoral
 INVASIVE VENTILATION - START [**2173-9-15**] 11:30 PM, was initially
   alkalotic with pH 7.5/ pCO2 44 on 500x14 came down to 450x12 with pH
   7.46 and pCO2 of 44
 ARTERIAL LINE - START [**2173-9-16**] 12:30 AM
   -Started decadron
   -No cuff leak
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems: unchanged
   Flowsheet Data as of  [**2173-9-16**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.2
   HR: 59 (59 - 65) bpm
   BP: 130/49(79) {126/48(77) - 191/76(123)} mmHg
   RR: 7 (7 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 57 kg (admission): 57 kg
   Height: 62 Inch
             Total In:
                                                                     57 mL
                                                                    620 mL
   PO:
             TF:
   IVF:
                                                                     57 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    260 mL
   Urine:
   10 mL
   NG:
   250 mL
   Stool:
   Drains:
   Balance:
                                                                     57 mL
                                                                    360 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 80 (80 - 276) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 423
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.46/44/220/27/7
   Ve: 6.2 L/min
   PaO2 / FiO2: 440
   Physical Examination
   Generally: intubated, sedated, during daily wake ups moves all four
   extremities, opens eyes to verbal stimuli
   HEENT: NCAT, pupils reactive bilaterally
   Cardiac: RRR, LUE fistula transmitting
   Lungs: coarse ventilated breath sounds, no stridor with ET tube in
   place
   Abdomen: Soft NT ND, NABS
   EXT: cool with diminished pulses
   Labs / Radiology
   197 K/uL
   9.1 g/dL
   133 mg/dL
   6.1 mg/dL
   27 mEq/L
   3.6 mEq/L
   30 mg/dL
   96 mEq/L
   135 mEq/L
   27.5 %
   5.4 K/uL
        [image002.jpg]
                             [**2173-9-16**]  12:48 AM
                             [**2173-9-16**]  02:35 AM
                             [**2173-9-16**]  02:53 AM
   WBC
   5.4
   Hct
   29
   27.5
   Plt
   197
   Cr
   6.1
   TCO2
   27
   32
   Glucose
   122
   133
   Other labs: Lactic Acid:0.9 mmol/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.1 mg/dL
   Microbiology: Blood and urine from [**9-15**] with NGTD
   Assessment and Plan
   Ms. [**Known lastname 4003**] is a 75F with a PMH s/f subglottic laryngeal edema, DM,
   HTN, and ESRD who found to be unresponsive after an episode of hypoxic
   respiratory distress
   .
   #. Respiratory distress: The patient has a history of subglottic
   laryngeal edema of unclear etiology, DDX includes angioedema from
   ACE/[**Last Name (un) 239**] vs. history of multiple intubations.  This occurred temporally
   after being restarted on valsartan, so I am very suspicious of
   angioedema.  No cuff leak on exam confirms my concerns for edema.  CTA
   negative for PE or any other acute process.  ABG reflects an underlying
   respiratory acidosis so perhaps she was tiring out from her upper
   airway obstruction prior to becoming acutely hypoxic.  Currently
   7.46/44/220 on AC 450X12 with a PEEP of 5 and an FiO2 50%.
   -Would favor a tracheostomy for this patient given her history of
   repeated intubations, will involve IP to facilitate, in the meantime,
   can wean sedation, and perform an SBT with the ET tube in place, if she
   is able to breathe with the tube relieving the stenosis, this is
   diagnostic.
   -Decadron 10mg IV q8H, evidence is not as convincing for [**Last Name (un) 239**]/ACE
   induced angioedema, but given her known edema and traumatic component,
   I would favor a three day course.
   -Hold valsartan, will discuss this plan with [**First Name4 (NamePattern1) 449**] [**Last Name (NamePattern1) **].
   .
   #. Altered mental status: Likely related to acute hypoxic respiratory
   distress, CT head negative, toxic metabolic work-up unrevealing.  Will
   hold off on any further work up at this time.
   -Wean sedation once her vent settings are appropriate and evaluate her
   mental status
   .
   #. Hypertensive urgency: Unclear etiology, the patient has HTN at
   baseline on a multiple drug regimen
   -Will restart labetalol PO and wean the gtt as tolerated
   .
   #. Mixed acid/base disorder: ABG reflects a mixed metabolic alkalosis
   and respiratory acidosis.  I am concerned about a contraction
   alkalosis, as the patient looks dry vs. a renin-mediated process given
   her hypertension.  Bicarb and chloride responded to one liter of NS in
   ED, supporting a chloride responsive process.  Respiratory acidosis is
   likely from compensation vs. tiring out from respiratory distress.
   -Could give another small bolus, we will need to correct herunderlying
   alkalosis prior to optimizing her resp. acidosis on the vent
   -Unfortunately cannot measure urine chloride or potassium as she is
   anuric
   .
   #. Upper GI bleed: coffee ground emesis, with guiac negative stools.
   Has a history of UGIB's with gastritis on EGDs from [**2169**]-[**2171**]
   -can stop the IV PPI as I would prefer famotidine in the setting of
   ?angioedema
   .
   #. ESRD
   -HD Tu/Th/Sat, will alert nephrology to her admission
   .
   #. Type II DM
   -Continue NPH at half dose while NPO, with ISS
   ICU Care
   Nutrition:
   Comments: NPO for now, nutrition consult for tube feeds
   Glycemic Control:  Regular insulin sliding scale, Comments: NPH at half
   home dose
   Lines:
   Dialysis Catheter - [**2173-9-15**] 11:30 PM
   Multi Lumen - [**2173-9-15**] 11:30 PM
   20 Gauge - [**2173-9-15**] 11:30 PM
   Arterial Line - [**2173-9-16**] 12:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2173-09-17 06:54:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
   - Started on Clonidine patch
   - Fentanyl/Versed changed to Propafol
   - IP consulted for tracheostomy and PEG: plan for OR placement this
   afternoon; Vancomycin and Desmopressin pre-procedure
   - Family in agreement with above plan
   - Hypertensive overnight to 180's; received Labetolol 200mg PO and
   Hydralazine 20mg IV with improvement in BPs
   - Labetolol dose increased from 200mg to 400mg TID
   - Renal reccs: Patient to be dialyzed prior to OR today
   - Spoke with patient
s nephrologist (Dr. [**First Name (STitle) 460**] regarding LUE clots;
   no need for anti-coagulation at this time
   History obtained from Family / Friend
   Allergies:
   History obtained from Family / FriendPenicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2173-9-16**] 09:57 AM
   Heparin Sodium (Prophylaxis) - [**2173-9-16**] 04:00 PM
   Hydralazine - [**2173-9-17**] 02:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-9-17**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 65 (59 - 71) bpm
   BP: 108/49(71) {108/49(71) - 180/70(112)} mmHg
   RR: 11 (0 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 57 kg
   Height: 62 Inch
             Total In:
                                                                  1,291 mL
                                                                    199 mL
   PO:
             TF:
   IVF:
                                                                  1,171 mL
                                                                    139 mL
   Blood products:
   Total out:
                                                                    260 mL
                                                                      9 mL
   Urine:
                                                                     10 mL
                                                                      9 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  1,031 mL
                                                                    190 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 68 (0 - 741) mL
   PS : 0 cmH2O
   RR (Set): 10
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 170
   RSBI Deferred: Unstable Airway
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 6.3 L/min
   Physical Examination
   Gen
   HEENT
   Heart
   Lungs
   Abdomen
   Extremities
   Labs / Radiology
   212 K/uL
   10.7 g/dL
   191 mg/dL
   7.5 mg/dL
   26 mEq/L
   5.5 mEq/L
   39 mg/dL
   94 mEq/L
   131 mEq/L
   33.2 %
   7.4 K/uL
        [image002.jpg]
                             [**2173-9-16**]  12:48 AM
                             [**2173-9-16**]  02:35 AM
                             [**2173-9-16**]  02:53 AM
                             [**2173-9-17**]  03:04 AM
   WBC
   5.4
   7.4
   Hct
   29
   27.5
   33.2
   Plt
   197
   212
   Cr
   6.1
   7.5
   TCO2
   27
   32
   Glucose
   122
   133
   191
   Other labs: PT / PTT / INR:13.0/29.2/1.1, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:4.9 %, Mono:0.3 %, Eos:0.8 %, Lactic Acid:0.9 mmol/L,
   Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.6 mg/dL
   Imaging: [**9-17**] Cxray: Pending
   Microbiology: [**9-15**] Urine culture: Pending
   [**9-15**] Blood culture: Pending
   Assessment and Plan
   Ms. [**Known lastname 4003**] is a 75F with a PMH s/f subglottic laryngeal edema, DM,
   HTN, and ESRD who found to be unresponsive after an episode of hypoxic
   respiratory distress
   1)Respiratory distress: The patient has a history of subglottic
   laryngeal edema of unclear etiology, DDX includes angioedema from
   ACE/[**Last Name (un) 239**] vs. history of multiple intubations.  This occurred temporally
   after being restarted on valsartan, so I am very suspicious of
   angioedema.  No cuff leak on exam confirms my concerns for edema.  CTA
   negative for PE or any other acute process.  ABG reflects an underlying
   respiratory acidosis so perhaps she was tiring out from her upper
   airway obstruction prior to becoming acutely hypoxic.  Currently
   7.46/44/220 on AC 450X12 with a PEEP of 5 and an FiO2 50%.
   -Would favor a tracheostomy for this patient given her history of
   repeated intubations, will involve IP to facilitate, in the meantime,
   can wean sedation, and perform an SBT with the ET tube in place, if she
   is able to breathe with the tube relieving the stenosis, this is
   diagnostic.
   -Decadron 10mg IV q8H, evidence is not as convincing for [**Last Name (un) 239**]/ACE
   induced angioedema, but given her known edema and traumatic component,
   I would favor a three day course.
   -Hold valsartan, will discuss this plan with [**First Name4 (NamePattern1) 449**] [**Last Name (NamePattern1) **].
   2) Hypertension The patient has HTN at baseline on a multiple drug
   regimen
   -Will restart labetalol PO and wean the gtt as tolerated
   3) Mixed acid/base disorder: ABG reflects a mixed metabolic alkalosis
   and respiratory acidosis.  I am concerned about a contraction
   alkalosis, as the patient looks dry vs. a renin-mediated process given
   her hypertension.  Bicarb and chloride responded to one liter of NS in
   ED, supporting a chloride responsive process.  Respiratory acidosis is
   likely from compensation vs. tiring out from respiratory distress.
   -Could give another small bolus, we will need to correct herunderlying
   alkalosis prior to optimizing her resp. acidosis on the vent
   -Unfortunately cannot measure urine chloride or potassium as she is
   anuric
   5)Upper GI bleed: coffee ground emesis, with guiac negative stools.
   Has a history of UGIB's with gastritis on EGDs from [**2169**]-[**2171**]
   -can stop the IV PPI as I would prefer famotidine in the setting of
   ?angioedema
   6)ESRD
   -HD Tu/Th/Sat, will alert nephrology to her admission
   7) Type II DM
   -Continue NPH at half dose while NPO, with ISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2173-9-15**] 11:30 PM
   Multi Lumen - [**2173-9-15**] 11:30 PM
   20 Gauge - [**2173-9-15**] 11:30 PM
   Arterial Line - [**2173-9-16**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-09-18 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient was on call for add on case Trach/peg, case cancelled until
   monday or tuesday
   Tube feeds restarted per nutrition recs
   Sedation changed from propofol to versed / fentanyl with good response
   Residuals >100ml, started reglan
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2173-9-17**] 12:54 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2173-9-17**] 12:24 PM
   Heparin Sodium (Prophylaxis) - [**2173-9-17**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-9-18**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 78 (66 - 83) bpm
   BP: 144/50(83) {103/38(57) - 148/54(88)} mmHg
   RR: 12 (5 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.4 kg (admission): 57 kg
   Height: 62 Inch
             Total In:
                                                                  1,204 mL
                                                                    202 mL
   PO:
             TF:
                                                                     46 mL
   IVF:
                                                                    858 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  3,551 mL
                                                                    180 mL
   Urine:
                                                                     11 mL
   NG:
                                                                     40 mL
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,347 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 685 (300 - 685) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 20
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.41/46/222/29/4
   Ve: 9.7 L/min
   PaO2 / FiO2: 444
   Physical Examination
   Gen: Intubated, sedated
   HEENT: Sclera anicteric
   Heart: Regular, soft I/Vi systolic murmur at RUSB, no, rubs or gallops
   Lungs: Clear to auscultation bilaterally
   Abdomen
   Extremities
   Labs / Radiology
   213 K/uL
   9.5 g/dL
   136 mg/dL
   4.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   22 mg/dL
   99 mEq/L
   139 mEq/L
   29.7 %
   8.8 K/uL
        [image002.jpg]
                             [**2173-9-16**]  12:48 AM
                             [**2173-9-16**]  02:35 AM
                             [**2173-9-16**]  02:53 AM
                             [**2173-9-17**]  03:04 AM
                             [**2173-9-18**]  03:16 AM
                             [**2173-9-18**]  03:26 AM
                             [**2173-9-18**]  06:27 AM
   WBC
   5.4
   7.4
   8.8
   Hct
   29
   27.5
   33.2
   29.7
   Plt
   197
   212
   213
   Cr
   6.1
   7.5
   4.9
   TCO2
   27
   32
   32
   30
   Glucose
   122
   133
   191
   136
   Other labs: PT / PTT / INR:13.2/39.6/1.1, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:4.9 %, Mono:0.3 %, Eos:0.8 %, Lactic Acid:0.9 mmol/L,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4003**] is a 75F with a PMH s/f subglottic laryngeal edema, DM,
   HTN, and ESRD who found to be unresponsive after an episode of hypoxic
   respiratory distress
   1)Respiratory distress / laryngeal stricture: Patient intubated, will
   require surgical intervention
   -- Continue mechanical ventilation for upper airway stricture, sedation
   with versed / fentanyl
   -- Family consented to procedure
   -- OR plan Monday /Tuesday
   2) Hypertension The patient has HTN at baseline on a multiple drug
   regimen
   --Will restart labetalol PO
   -- PRN Hydralazine
   3) Mixed acid/base disorder: Improved.
   -- Continue HD
   -- vent support
   5)Upper GI bleed: coffee ground emesis, with guiac negative stools.
   Has a history of UGIB's with gastritis on EGDs from [**2169**]-[**2171**]
   -- Hct stable continue to follow daily
   6)ESRD: HD today to resume outpatient schedule, will hold noon
   antihypertensive
   Continue HD Tu/Th/Sat
   7) Type II DM
   -Continue NPH at half dose while NPO, with ISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2173-9-15**] 11:30 PM
   Multi Lumen - [**2173-9-15**] 11:30 PM
   20 Gauge - [**2173-9-15**] 11:30 PM
   Arterial Line - [**2173-9-16**] 12:30 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: H2 blocker
   VAP:  Bundle care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 75F ESRD, DM, HTN, subglottic edema due to ?
   intubations vs angioedema. Developed SOB at rehab after resuming
   valsartan. Found unresponsive at rehab with hypoxia and brought to the
   ED and intubated with difficulty given swelling. Imaging unremarkable,
   R fem CVL placed, treated with abx, and sent to MICU. Getting HD,
   awaiting T+G in OR today.
   Sedation changed from Propafol to versed, fentanyl. Reglan started for
   residuals. Had some pauses on vent and switched back to AC
   Exam notable for Tm 98.1 BP 100-40/30-70 HR 70s RR 11-15 with sat 99%
   on AC 450x10, 40% PEEP 5. 7.41/46/221
   Sedated, comfortable on vent. Chest clear, RRR S1S2S4 [**5-16**] SM at apex,
   soft abd, stasis changes, audible flow murmur over L arm. Labs notable
   for WBC 8.8K, HCT 29.7% Plt 213, K+ 5.5. NA 139, Cl 99 BUN 22 Cr 4.9
   Meds: NPH SSRI Famotidine SC Hep Chlor hex Clonidine Labetalol Fent 75
   Midaz 4 Free Water Reglan Nephrocaps
   Agree with plan to continue supportive care.
   Resp: Lighten sedation to allow for PSV.  Plan for T+G by IP in OR
   Monday. Continue to monitor for s/sx of aspiration PNA, check sputum cx
   and hold abx for now
   Hemodynamics: Will try to optimize BP control with IV / PO labetalol
   and addition of clonidine patch.
   Will monitor HCT closely given ?UGIB, continue H2B, currently stable
   without evidence of blood loss. Will hold off on long term
   anticoagulation for UEDVT per Dr. [**First Name (STitle) 460**], HD per renal team.
   Hope tp plan for either PICC PIV or only HD line after OR to remove
   femoral line
   Monitor FSG and continue RISS.  Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1876**] [**Last Name (NamePattern1) 1877**], MD
   on:[**2173-9-18**] 11:24 ------

2173-09-19 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Fever to 102 in the setting of a femoral line, with a new
   leukocytosis.  Cultured from central line and peripherals
   -TF were stopped most of the day secondary to high residuals.  Maxed
   out on reglan
   -Radiology called to inform us that CT is showing a right subclavian
   stenosis
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2173-9-17**] 12:54 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2173-9-18**] 08:00 AM
   Hydralazine - [**2173-9-18**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2173-9-19**] 12:00 AM
   Midazolam (Versed) - [**2173-9-19**] 03:20 AM
   Fentanyl - [**2173-9-19**] 03:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-9-19**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38
C (100.4
   HR: 85 (79 - 100) bpm
   BP: 126/37(65) {112/36(61) - 168/94(110)} mmHg
   RR: 34 (3 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.3 kg (admission): 57 kg
   Height: 62 Inch
             Total In:
                                                                  1,181 mL
                                                                    337 mL
   PO:
             TF:
                                                                    103 mL
                                                                     39 mL
   IVF:
                                                                    538 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                  2,188 mL
                                                                      4 mL
   Urine:
                                                                      8 mL
                                                                      4 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,007 mL
                                                                    333 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 14
   PIP: 13 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.46/40/195/28/5
   Ve: 5 L/min
   PaO2 / FiO2: 488
   Physical Examination
   Gen: Patient sedated, not responsive
   HEENT: ETT in place
   Heart: 2/6 SEM
   Lungs: CTAB
   Abdomen: Soft, NT/ND
   Extremities: No edema, well perfused
   Labs / Radiology
   209 K/uL
   9.3 g/dL
   55 mg/dL
   3.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   10 mg/dL
   104 mEq/L
   142 mEq/L
   28.4 %
   11.7 K/uL
        [image002.jpg]
                             [**2173-9-16**]  12:48 AM
                             [**2173-9-16**]  02:35 AM
                             [**2173-9-16**]  02:53 AM
                             [**2173-9-17**]  03:04 AM
                             [**2173-9-18**]  03:16 AM
                             [**2173-9-18**]  03:26 AM
                             [**2173-9-18**]  06:27 AM
                             [**2173-9-18**]  03:25 PM
                             [**2173-9-18**]  08:53 PM
                             [**2173-9-19**]  03:03 AM
   WBC
   5.4
   7.4
   8.8
   11.7
   Hct
   29
   27.5
   33.2
   29.7
   28.4
   Plt
   197
   212
   213
   209
   Cr
   6.1
   7.5
   4.9
   3.6
   TCO2
   27
   32
   32
   30
   32
   29
   Glucose
   122
   133
   191
   136
   55
   Other labs: PT / PTT / INR:15.0/92.1/1.3, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:4.9 %, Mono:0.3 %, Eos:0.8 %, Lactic Acid:0.9 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR:
   Microbiology: Blood cultures 8/6 and [**9-18**] with NGTD
   Sputum: 3+ oropharyneal like flora
   Assessment and Plan
   Ms. [**Known lastname 4003**] is a 75F with a PMH s/f subglottic laryngeal edema, DM,
   HTN, and ESRD who found to be unresponsive after an episode of hypoxic
   respiratory distress
   1) Fevers/leukocystosis: Patient spiking temperatures for past 12 hours
   and also with mildly elevated WBC. Concerned about line infection given
   R femoral line vs. tunneled dialysis catheter. VAP is also on the
   differential but less likely given clear cxray.
   - Vancomycin 1gm x 1
   - d/c femoral line and send tip for culture
   - f/u cultures
   2)Respiratory distress / laryngeal stricture: Patient intubated, will
   require tracheostomy early this week.
   -- Continue current ventilator settings, sedation with versed /
   fentanyl
   -- OR plan Monday /Tuesday
   3) Hypertension: The patient initially presented with hypertensive
   urgency requiring Labetolol gtt. She has been off the gtt for several
   days now with excellent control of her blood pressures.
   - Continue Labetolol PO
   4)ESRD:  Continue HD Tu/Th/Sat. Renal following closely.
   5) Type II DM: Blood sugars are well controlled on current regimen.
   -Continue NPH at half dose while NPO, with ISS
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2173-9-18**] 03:50 PM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale, blood sugars well
   controlled
   Lines:
   Dialysis Catheter - [**2173-9-15**] 11:30 PM
   Multi Lumen - [**2173-9-15**] 11:30 PM
   Arterial Line - [**2173-9-16**] 12:30 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Remain in MICU

2173-09-20 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2173-9-19**] 02:00 PM
 FEVER - 101.1
F - [**2173-9-19**] 12:00 PM
   - Right femoral line d/c'ed and tip sent for culture
   - Empirically given Vancomycin 1gm x 1 to treat for presumed line
   infection
   - PIV placed by IV nurse
   - Continues to have high tube feeding residuals
   - Labetolol increased from 400mg to 600mg TID
   - Received Hydralazine 10mg IV x 1 overnight for SBP~180's
   - Reglan re-dosed based on Creatinine
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2173-9-19**] 01:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2173-9-19**] 08:00 AM
   Hydralazine - [**2173-9-19**] 11:45 PM
   Fentanyl - [**2173-9-20**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2173-9-20**] 12:12 AM
   Midazolam (Versed) - [**2173-9-20**] 02:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-9-20**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.8
C (100.1
   HR: 75 (75 - 88) bpm
   BP: 136/40(73) {129/37(69) - 157/54(88)} mmHg
   RR: 11 (0 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.5 kg (admission): 57 kg
   Height: 62 Inch
             Total In:
                                                                  1,608 mL
                                                                     50 mL
   PO:
             TF:
                                                                    294 mL
   IVF:
                                                                    633 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                      9 mL
                                                                      4 mL
   Urine:
                                                                      9 mL
                                                                      4 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,599 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.40/47/181/28/3
   Ve: 4.2 L/min
   PaO2 / FiO2: 603
   Physical Examination
   Gen: Patient sedated, not responsive
   HEENT: ETT in place
   Heart: 2/6 SEM
   Lungs: CTAB
   Abdomen: Soft, NT/ND
   Extremities: No edema, well perfused
   Labs / Radiology
   208 K/uL
   8.5 g/dL
   102 mg/dL
   5.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   22 mg/dL
   101 mEq/L
   139 mEq/L
   25.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2173-9-16**]  02:53 AM
                             [**2173-9-17**]  03:04 AM
                             [**2173-9-18**]  03:16 AM
                             [**2173-9-18**]  03:26 AM
                             [**2173-9-18**]  06:27 AM
                             [**2173-9-18**]  03:25 PM
                             [**2173-9-18**]  08:53 PM
                             [**2173-9-19**]  03:03 AM
                             [**2173-9-20**]  03:00 AM
                             [**2173-9-20**]  03:43 AM
   WBC
   7.4
   8.8
   11.7
   11.6
   Hct
   33.2
   29.7
   28.4
   25.6
   Plt
   [**Telephone/Fax (3) 4142**]08
   Cr
   7.5
   4.9
   3.6
   5.6
   TCO2
   32
   32
   30
   32
   29
   30
   Glucose
   191
   136
   55
   102
   Other labs: PT / PTT / INR:16.0/50.2/1.4, ALT / AST:13/44, Alk Phos / T
   Bili:83/0.3, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:4.9 %,
   Mono:0.3 %, Eos:0.8 %, Lactic Acid:0.7 mmol/L, LDH:214 IU/L, Ca++:9.1
   mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Imaging: [**9-20**] Cxray: Unchanged appearance of the chest from [**2173-9-19**]. Support lines and tubes in unchanged positions.
   Microbiology: [**9-15**] Blood culture: Pending
   [**9-15**] Urine culture: No growth
   [**9-18**] Blood culture: Pending
   [**9-18**] Sputum culture: >25 PMNs, culture pending
   [**9-19**] Catheter tip: Pending
   Assessment and Plan
   Ms. [**Known lastname 4003**] is a 75F with a PMH s/f subglottic laryngeal edema, DM,
   HTN, and ESRD who found to be unresponsive after an episode of hypoxic
   respiratory distress
   1) Fevers/leukocystosis: Concerned about line infection given R femoral
   line vs. tunneled dialysis catheter. VAP is also on the differential
   but less likely given clear cxray. No evidence of cholestasis or other
   source of fever.
   -- Vancomycin 1gm qHD while cultures pending
   -- If clinically deteriorated, would broaden coverage to include gram
   negative rods
   -- F/U femoral line tip culture
   -- f/u cultures
   2)Respiratory distress / laryngeal stricture: Patient intubated, will
   require tracheostomy early this week.
   -- Continue current ventilator settings, sedation with versed /
   fentanyl
   -- OR plan Monday /Tuesday
   3) Hypertension: The patient initially presented with hypertensive
   urgency requiring Labetolol gtt. She has been off the gtt for several
   days now with excellent control of her blood pressures.
   - Continue Labetolol PO
   4)ESRD:  Continue HD Tu/Th/Sat. Renal following closely.
   -- Plan for early HD before surgery in AM
   5) Type II DM: Blood sugars are well controlled on current regimen.
   -Continue NPH at half dose while NPO, with ISS
   ICU Care
   Nutrition: Hold TF for surgery in AM
   Glycemic Control:  SSI
   Lines:
   Dialysis Catheter - [**2173-9-15**] 11:30 PM
   Arterial Line - [**2173-9-16**] 12:30 AM
   20 Gauge - [**2173-9-19**] 01:00 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: H2 blocker
   VAP:  bundle care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Remain in MICU

2173-09-21 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2173-9-20**] 07:41 PM
   Tube feeds held for OR today
   Active Type and Screen
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2173-9-19**] 01:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-9-21**] 12:18 AM
   Famotidine PO
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-9-21**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 74 (73 - 77) bpm
   BP: 150/51(87) {119/32(62) - 158/53(90)} mmHg
   RR: 11 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.5 kg (admission): 57 kg
   Height: 62 Inch
             Total In:
                                                                    549 mL
                                                                    142 mL
   PO:
             TF:
                                                                    117 mL
   IVF:
                                                                    192 mL
                                                                     52 mL
   Blood products:
   Total out:
                                                                    109 mL
                                                                      0 mL
   Urine:
                                                                      9 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    440 mL
                                                                    142 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 505 (437 - 533) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.38/42/146/25/0
   Ve: 8.4 L/min
   PaO2 / FiO2: 487
   Physical Examination
   Gen: Patient sedated, not responsive
   HEENT: ETT in place
   Heart: 2/6 SEM
   Lungs: CTAB
   Abdomen: Soft, NT/ND
   Extremities: No edema, well perfused
   Labs / Radiology
   245 K/uL
   8.6 g/dL
   109 mg/dL
   7.5 mg/dL
   25 mEq/L
   3.6 mEq/L
   34 mg/dL
   100 mEq/L
   138 mEq/L
   26.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2173-9-18**]  03:16 AM
                             [**2173-9-18**]  03:26 AM
                             [**2173-9-18**]  06:27 AM
                             [**2173-9-18**]  03:25 PM
                             [**2173-9-18**]  08:53 PM
                             [**2173-9-19**]  03:03 AM
                             [**2173-9-20**]  03:00 AM
                             [**2173-9-20**]  03:43 AM
                             [**2173-9-21**]  12:02 AM
                             [**2173-9-21**]  03:08 AM
   WBC
   8.8
   11.7
   11.6
   8.1
   Hct
   29.7
   28.4
   25.6
   26.3
   Plt
   [**Telephone/Fax (3) 4193**]45
   Cr
   4.9
   3.6
   5.6
   7.5
   TCO2
   32
   30
   32
   29
   30
   26
   Glucose
   136
   55
   102
   109
   Other labs: PT / PTT / INR:15.7/37.9/1.4, ALT / AST:13/44, Alk Phos / T
   Bili:83/0.3, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:4.9 %,
   Mono:0.3 %, Eos:0.8 %, Lactic Acid:0.7 mmol/L, LDH:214 IU/L, Ca++:9.0
   mg/dL, Mg++:1.9 mg/dL, PO4:4.9 mg/dL
   MICRO
   [**2173-9-20**] 7:49 pm   GRAM STAIN (Final [**2173-9-20**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
[**2173-9-19**] 1:31 pm CATHETER TIP-IV      Source: R femoral line.
   WOUND CULTURE (Preliminary):    No significant growth.
   Blood cultures: Pending
   Assessment and Plan
   Ms. [**Known lastname 4003**] is a 75F with a PMH s/f subglottic laryngeal edema, DM,
   HTN, and ESRD who found to be unresponsive after an episode of hypoxic
   respiratory distress
   1) Fevers/leukocystosis: Concerned about line infection given R femoral
   line vs. tunneled dialysis catheter. VAP is also on the differential
   but less likely given clear cxray. No evidence of cholestasis or other
   source of fever.
   -- Vancomycin 1gm qHD while cultures pending, would treat for 8 days
   total for line infection
   -- If clinically deteriorated, would broaden coverage to include gram
   negative rods
   -- F/U femoral line tip culture, negative to date
   -- f/u cultures
   2)Respiratory distress / laryngeal stricture: Patient intubated, on
   schedule for trach / peg today.
   -- Continue current ventilator settings, sedation with versed /
   fentanyl
   -- OR today
   -- HD early in AM before surgery
   3) Hypertension: The patient initially presented with hypertensive
   urgency requiring Labetolol gtt. She has been off the gtt for several
   days now with excellent control of her blood pressures.
   - Continue Labetolol PO
   4)ESRD:  Continue HD Tu/Th/Sat. Renal following closely.
   -- Plan for early HD before surgery
   5) Type II DM: Blood sugars are well controlled on current regimen.
   -Continue NPH at half dose while NPO, with ISS
   6) Venous thrombosis: Although not active at this time, would consider
   future intervention to functional SVC syndrome.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2173-9-15**] 11:30 PM
   Arterial Line - [**2173-9-16**] 12:30 AM
   20 Gauge - [**2173-9-19**] 01:00 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: H2 blocker
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now, pending trach

2173-09-22 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt had trach & PEG placed.  Still on vent, having difficulty weaning.
   Sedation dc
d.  Received dose of hydral for SBP to 190s.  ARTERIAL LINE
   dc
 STOP.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2173-9-19**] 01:00 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2173-9-21**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2173-9-22**] 12:00 AM
   Other medications:
   Flowsheet Data as of  [**2173-9-22**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 91 (70 - 109) bpm
   BP: 140/49(65) {139/44(65) - 140/49(71)} mmHg
   RR: 15 (10 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.5 kg (admission): 57 kg
   Height: 62 Inch
             Total In:
                                                                    839 mL
                                                                     37 mL
   PO:
             TF:
   IVF:
                                                                    629 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                     38 mL
                                                                      0 mL
   Urine:
                                                                     18 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                    801 mL
                                                                     37 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 511 (467 - 511) mL
   RR (Set): 10
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 5.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   266 K/uL
   8.6 g/dL
   133 mg/dL
   4.9 mg/dL
   25 mEq/L
   4.2 mEq/L
   20 mg/dL
   103 mEq/L
   141 mEq/L
   26.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2173-9-18**]  03:26 AM
                             [**2173-9-18**]  06:27 AM
                             [**2173-9-18**]  03:25 PM
                             [**2173-9-18**]  08:53 PM
                             [**2173-9-19**]  03:03 AM
                             [**2173-9-20**]  03:00 AM
                             [**2173-9-20**]  03:43 AM
                             [**2173-9-21**]  12:02 AM
                             [**2173-9-21**]  03:08 AM
                             [**2173-9-22**]  03:30 AM
   WBC
   11.7
   11.6
   8.1
   7.8
   Hct
   28.4
   25.6
   26.3
   26.9
   Plt
   [**Telephone/Fax (3) 4245**]66
   Other labs: PT / PTT / INR:15.7/37.9/1.4, ALT / AST:13/44, Alk Phos / T
   Bili:83/0.3, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:4.9 %,
   Mono:0.3 %, Eos:0.8 %, Lactic Acid:0.7 mmol/L, LDH:214 IU/L, Ca++:8.8
   mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4003**] is a 75F with a PMH s/f subglottic laryngeal edema, DM,
   HTN, and ESRD who found to be unresponsive after an episode of hypoxic
   respiratory distress.  Pt unable to be extubated.  Now, POD#1 s/p trach
   & PEG.
   1) Respiratory failure/ subglottic laryngeal edema: now has
   tracheostomy.  Still on vent, having difficulty weaning.  Suspect
   difficulty weaning primarily due to deconditioning of respiratory
   muscles.
   -- Wean vent as tolerated; will try on PS or MMV for a period to
   encourage her to work some on her own & strengthen her resp muscles
   2) Fevers/leukocystosis: Pt has been afebrile on Vanc.  She is getting
   tx
d for line infection given R femoral line vs. tunneled dialysis
   catheter.  Vanc held yesterday b/c of supratherapeutic trough (30s).
   -- Recheck Vanc trough
   -- Vancomycin 1gm qHD once trough <20
   -- Treat for 8 days total for line infection
   -- If clinically deteriorated, would broaden coverage to include gram
   negative rods
   -- F/U femoral line tip culture, negative to date
   -- f/u cultures
   3) Hypertension: The patient initially presented with hypertensive
   urgency requiring Labetolol gtt. She has been off the gtt for several
   days now with excellent control of her blood pressures.
   - Continue Labetolol PO
   4)ESRD:  Continue HD Tu/Th/Sat. Renal following (Dr. [**First Name (STitle) 460**].
   5) Type II DM: Blood sugars are well controlled on current regimen.
   -Continue NPH at half dose while NPO, with ISS
   6) Venous thrombosis: Although not active at this time, would consider
   future intervention b/c of functional SVC syndrome.
   7) Mental Status: minimally responsive even after sedation stopped this
   AM.  Con
t to monitor closely, suspect it will take days for sedation
   to fully clear.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2173-9-15**] 11:30 PM
   20 Gauge - [**2173-9-19**] 01:00 PM
   22 Gauge - [**2173-9-21**] 05:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Frequent turning
   VAP: HOB elevation, Mouth care, Daily wake up
   Communication: Patient discussed on interdisciplinary rounds
   Code status: Full code
   Disposition: ICU while on vent ; will d/w case management screening for
   acute rehabs w/ ventilator units.

2173-09-23 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
Tolerated MMV
Low grade fever to 100.5 for much of evening
 URINE CULTURE - At [**2173-9-23**] 04:32 AM
   Foley D/C'd and culture sent
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2173-9-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2173-9-23**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-9-23**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 82 (75 - 89) bpm
   BP: 139/44(67) {125/38(61) - 176/67(92)} mmHg
   RR: 11 (8 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.7 kg (admission): 57 kg
   Height: 62 Inch
                  Total In:
                                                                    509 mL
                                                                    710 mL
   PO:
                  TF:
                                                                    111 mL
                                                                    230 mL
   IVF:
                                                                     38 mL
   Blood products:
   Total out:
                                                                    345 mL
                                                                      0 mL
   Urine:
                                                                      5 mL
   NG:
                                                                    340 mL
   Stool:
   Drains:
   Balance:
                                                                    164 mL
                                                                    710 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 345 (345 - 397) mL
   PS : 16 cmH2O
   RR (Set): 6
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 95
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 7.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   266 K/uL
   8.6 g/dL
   133 mg/dL
   4.9 mg/dL
   25 mEq/L
   4.2 mEq/L
   20 mg/dL
   103 mEq/L
   141 mEq/L
   26.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2173-9-18**]  03:26 AM
                             [**2173-9-18**]  06:27 AM
                             [**2173-9-18**]  03:25 PM
                             [**2173-9-18**]  08:53 PM
                             [**2173-9-19**]  03:03 AM
                             [**2173-9-20**]  03:00 AM
                             [**2173-9-20**]  03:43 AM
                             [**2173-9-21**]  12:02 AM
                             [**2173-9-21**]  03:08 AM
                             [**2173-9-22**]  03:30 AM
   WBC
   11.7
   11.6
   8.1
   7.8
   Hct
   28.4
   25.6
   26.3
   26.9
   Plt
   [**Telephone/Fax (3) 4245**]66
   Cr
   3.6
   5.6
   7.5
   4.9
   TCO2
   32
   30
   32
   29
   30
   26
   Glucose
   55
   102
   109
   133
   Other labs: PT / PTT / INR:15.7/37.9/1.4, ALT / AST:13/44, Alk Phos / T
   Bili:83/0.3, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:4.9 %,
   Mono:0.3 %, Eos:0.8 %, Lactic Acid:0.7 mmol/L, LDH:214 IU/L, Ca++:8.8
   mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4003**] is a 75F with a PMH s/f subglottic laryngeal edema, DM,
   HTN, and ESRD who found to be unresponsive after an episode of hypoxic
   respiratory distress.  Pt unable to be extubated.  Now, POD#2 s/p trach
   & PEG.
   - Respiratory failure/ subglottic laryngeal edema: now has
   tracheostomy.  Still on vent, having difficulty weaning.  Suspect
   difficulty weaning primarily due to deconditioning of respiratory
   muscles.
   -- Wean vent as tolerated; will try on PS or MMV for a period to
   encourage her to work some on her own & strengthen her resp muscles
   - Fevers: Pt w/ low grade fevers since OR.  She is currently getting
   tx
d for possible line infection given prior R femoral line vs.
   tunneled dialysis catheter.
   -- Blood cx w/ HD
   -- Follow Vanc trough & Vancomycin 1gm qHD once trough <20
   -- Treat for 8 days total for line infection
   -- If clinically deteriorated, would broaden coverage to include gram
   negative rods
   -- f/u cultures
   - Hypertension: The patient initially presented with hypertensive
   urgency requiring Labetolol gtt. She has been off the gtt for several
   days now with excellent control of her blood pressures.
   - Continue Labetolol PO
   - ESRD:  Continue HD Tu/Th/Sat. Renal following (Dr. [**First Name (STitle) 460**].
   - Type II DM: Blood sugars are well controlled on current regimen.
   -Continue NPH at half dose while NPO, with ISS
   -Anemia: stable. Con
t to monitor.  Workup as outpt
   - Venous thrombosis: Although not active at this time, would consider
   future intervention b/c of functional SVC syndrome.  Holding anticoag
   per renal team
   - Mental Status: minimally responsive even after sedation stopped.
   Con
t to monitor closely, suspect it will take days for sedation to
   fully clear.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2173-9-23**] 04:18 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2173-9-15**] 11:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-09-24 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2173-9-23**] 05:23 PM, has tolerated trach
   collar well since
 FEVER - 103.5
F - [**2173-9-23**] 04:00 PM
 empiric levofloxacin and
   Flagyl started
 U/S of RLE negative for evidence of DVT
   Patient unable to provide history: Unresponsive
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-9-24**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 37.6
C (99.7
   HR: 75 (75 - 96) bpm
   BP: 143/48(73) {124/41(63) - 173/59(81)} mmHg
   RR: 0 (0 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.7 kg (admission): 57 kg
   Height: 62 Inch
                  Total In:
                                                                  1,759 mL
                                                                    612 mL
   PO:
                  TF:
                                                                    719 mL
                                                                    232 mL
   IVF:
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,241 mL
                                                                    612 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 291 (291 - 564) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: 7.48/43/167/27/8
   Ve: 6.8 L/min
   PaO2 / FiO2: 557
   Physical Examination
   Gen: Chronically ill appearing adult female, s/p recent trach, no acute
   distress.
   HEENT: PERRL, EOMI. MMM. Conjunctiva well pigmented.
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   Chest: CTAB anterior and posterior.
   Cor: Normal S1, S2. RRR. No murmurs appreciated.
   Abdomen: Soft, non-tender and non-distended. +BS, no HSM.
   Extremity: Warm, moderate LE edema. 2+ DP pulses bilat.
   Neuro: Moderately responsive to verbal stimuli. CN 2-12 intact. Motor
   and sensory function intact. No interval change.
   Labs / Radiology
   296 K/uL
   8.7 g/dL
   162 mg/dL
   4.3 mg/dL
   27 mEq/L
   4.0 mEq/L
   21 mg/dL
   104 mEq/L
   143 mEq/L
   28.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2173-9-18**]  08:53 PM
                             [**2173-9-19**]  03:03 AM
                             [**2173-9-20**]  03:00 AM
                             [**2173-9-20**]  03:43 AM
                             [**2173-9-21**]  12:02 AM
                             [**2173-9-21**]  03:08 AM
                             [**2173-9-22**]  03:30 AM
                             [**2173-9-23**]  10:21 AM
                             [**2173-9-24**]  04:46 AM
                             [**2173-9-24**]  06:03 AM
   WBC
   11.7
   11.6
   8.1
   7.8
   10.9
   9.5
   Hct
   28.4
   25.6
   26.3
   26.9
   26.1
   28.3
   Plt
   [**Telephone/Fax (3) 4245**]66
   277
   296
   Cr
   3.6
   5.6
   7.5
   4.9
   7.1
   4.3
   TCO2
   29
   30
   26
   33
   Glucose
   55
   102
   109
   133
   226
   162
   Other labs: PT / PTT / INR:15.7/37.9/1.4, ALT / AST:15/34, Alk Phos / T
   Bili:82/0.2, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:4.9 %,
   Mono:0.3 %, Eos:0.8 %, Lactic Acid:0.7 mmol/L, Albumin:3.0 g/dL,
   LDH:316 IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 4003**] is a 75F with a PMH s/f subglottic laryngeal edema, DM,
   HTN, and ESRD who found to be unresponsive after an episode of hypoxic
   respiratory distress.  Pt unable to be extubated.  Now, POD#3 s/p trach
   & PEG.
   - Respiratory failure/ subglottic laryngeal edema: now has tracheostomy
   and has successfully weaned from vent. Overall respiratory status much
   improved. Continue to wean oxygen as tolerated.
   - Fevers: Pt spiked fever yesterday afternoon but has remained HD
   stable. She is currently getting tx
d for possible line infection given
   prior R femoral line vs. tunneled dialysis catheter.  Vanco
   therapeutic.  Pt having loose stool.
   -- Blood cx w/ HD; sent UA/Cx; first C. Diff negative, will repeat
   -- Follow Vanc trough & Vancomycin 1gm qHD once trough <20
   -- empiric Flagyl for C.Diff and levofloxain has been added; would
   treat empirically for 7 days if no infectious source identified
   -- Treat for 8 days total for line infection; [**2173-9-24**] = day 5
   -- will check mandible CT for evidence of possible [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4347**]
   infection
   - Mental Status: Markedly improved. Suspect depressed MS was related to
   lingering sedation which has now cleared.
   - Hypertension: The patient initially presented with hypertensive
   urgency requiring Labetolol gtt. She has been off the gtt for several
   days now with excellent control of her blood pressures.
   -- Continue Labetolol PO and clonidine
   - ESRD:  Continue HD Tu/Th/Sat. Renal following (Dr. [**First Name (STitle) 460**].
   - Type II DM: Blood sugars are well controlled on current regimen.
   Continue NPH with ISS
   - Anemia: stable. Con
t to monitor.  Workup as outpt
   - Venous thrombosis: Although not active at this time, would consider
   future intervention b/c of functional SVC syndrome. Holding anticoag
   per renal team.  RLE US negative for evidence of clot
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2173-9-23**] 12:17 PM 30 mL/hour
   Glycemic Control:  well controlled
   Lines:
   Dialysis Catheter - [**2173-9-15**] 11:30 PM
   Prophylaxis:
   DVT: Hep subq
   Stress ulcer: not indicated
   VAP:  chlorhex
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: c/o to floor today